US04105790
A solution of sodium azide (17.0g.) in water (100ml.) was added to a solution of methyl 4-(chloroacetyl)thiophenoxyacetate (60.1g.) in chloroform (350ml.). Benzyl triethylammonium chloride (300mg.) was then added, and the two phase mixture was shaken for 16 hours. The organic phase was separated, washed with water (2 × 100ml.), dried (MgSO4) and then evaporated in vacuo. The residue was recrystallised from methanol to give methyl 4-(azidoacetyl)thiophenoxyacetate (49.3g.), having a characteristic azide absorption at 2110cm-1 in the infra-red spectrum.

reactant | sodium azide | 17.0g | [N-]=[N+]=[N-].[Na+]
reactant | methyl 4-(chloroacetyl)thiophenoxyacetate | 60.1g | ClCC(=O)C1=CC=C(SCC(=O)OC)C=C1 | C11H11ClO3S
solvent | water | 100ml | O | H2O
solvent | chloroform | 350ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Benzyl triethylammonium chloride | 300mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | methyl 4-(azidoacetyl)thiophenoxyacetate | 49.3g | N(=[N+]=[N-])CC(=O)C1=CC=C(SCC(=O)OC)C=C1 | C11H11N3O3S
